US06048842
3,5-Dimethoxyiodobenzene (1.19 g) is dissolved in acetic acid (10 ml), and thereto is added 47% hydrobromic acid (10 ml) at room temperature, and the mixture is refluxed for 15 hours. The reaction mixture is cooled to room temperature, and concentrated to dryness under reduced pressure. The residue is dissolved in ethyl acetate, and the organic layer is washed with water, dried, and concentrated under reduced pressure to give 3,5-dihydroxyiodobenzene (1.06 g).

reactant | 3,5-Dimethoxyiodobenzene | 1.19 g | COC=1C=C(C=C(C1)OC)I | C8H9IO2
reactant | hydrobromic acid | 10 ml | Br | BrH
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 3,5-dihydroxyiodobenzene | 1.06 g | OC=1C=C(C=C(C1)O)I | C6H5IO2
